US06372736B1
(2S)-1-(6-Chloro-1,3-benzothiazol-2-yl)-2-piperidinecarboxylic acid
The title compound was prepared by a similar method to Preparation 3 from ethyl (2S)-1-(6-chloro-1,3-benzothiazol-2-yl)-2-piperidinecarboxylate [see Preparation 44] and 1N aqueous lithium hydroxide solution to afford (2S)-1-(6-chloro-1,3-benzothiazol-2-yl)-2-piperidinecarboxylic acid as a solid.

reactant | ethyl (2S)-1-(6-chloro-1,3-benzothiazol-2-yl)-2-piperidinecarboxylate | ClC1=CC2=C(N=C(S2)N2[C@@H](CCCC2)C(=O)OCC)C=C1 | C15H17ClN2O2S
reactant | lithium hydroxide | 1N | [OH-].[Li+]
product | (2S)-1-(6-chloro-1,3-benzothiazol-2-yl)-2-piperidinecarboxylic acid | ClC1=CC2=C(N=C(S2)N2[C@@H](CCCC2)C(=O)O)C=C1 | C13H13ClN2O2S
